### PR TITLE
[Merged by Bors] - feat(Computability/Language): add Arden's lemma

### PR DESCRIPTION
**Pull request by anthonyde**
Arden's lemma gives a solution to the linear equation `X = A * X + B` for languages.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Computability/Language.lean [hunk 1]
```diff
@@ -269,6 +269,30 @@ instance : KleeneAlgebra (Language α) :=
         rw [pow_succ, ← mul_assoc m (l^n) l]
         exact le_trans (le_mul_congr ih le_rfl) h }
 
+/-- **Arden's lemma** -/
+theorem self_eq_kstar_mul {l m n : Language α} (hm : [] ∉ m) (h : l = m * l + n) : l = m∗ * n := by
```
Comment (YaelDillies) [inline Mathlib/Computability/Language.lean:273]: What about
```suggestion
theorem mul_add_eq_self_iff {l m n : Language α} (hm : [] ∉ m) : m * l + n = l ↔ l = m∗ * n := by
```
?

**Review by YaelDillies — COMMENTED** [review]
Nice work!

File: Mathlib/Computability/Language.lean (hunk 1 above)
Comment (anthonyde) [reply Mathlib/Computability/Language.lean:273]: Is there a reason for `m * l + n = l` vs `l = m * l + n`?

Comment (YaelDillies) [reply Mathlib/Computability/Language.lean:273]: Just the general rule that the RHS of an equality should be more complicated than the LHS, but also I'm not sure it's worth applying here, so do as you wish

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge
